US04092313
23.1 g of 3,7-dimethyl-2,6-octadien-1-ol and 3.4 g of metal sodium are added to 200 ml of absolute toluene, and the mixture is stirred at 40° to 50° C until the metal sodium has been completely dissolved. Subsequently 7.4 g of 2-chloro-5-fluoropyrimidin-4-one is added to the solution, and the mixture is refluxed for 8 hours. The solvent is distilled off from the resulting reaction mixture, 30 ml of water is added to the residue and the pH of the mixture is adjusted to 4-5 with dilute hydrochloric acid. The resulting mixture is extracted with 200 ml of chloroform and the extract is concentrated. Purification of the residue by silica gel column chromatography gives 8.3 g of slightly yellow oily 2-(3,7-dimethyl-2,6-octadien-1-oxy)-5-fluoropyrimidin-4-one in a yield of 61.0%.

reactant | 3,7-dimethyl-2,6-octadien-1-ol | 23.1 g | CC(=CCO)CCC=C(C)C | C10H18O
reactant | sodium | [Na] | Na
reactant | 2-chloro-5-fluoropyrimidin-4-one | 7.4 g | ClC1=NC=C(C(N1)=O)F | C4H2ClFN2O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(3,7-dimethyl-2,6-octadien-1-oxy)-5-fluoropyrimidin-4-one | yield of 61.0% | CC(=CCOC1=NC=C(C(N1)=O)F)CCC=C(C)C | C14H19FN2O2
